US04684654
7-Chloro-3-[3-(1H-imidazol-1-yl)-2-methylpropyl]-1-methyl-2,4(1H,3H)-quinazolinedione
A mixture of 2.12 g of 4-chloro-N-methylisatoic anhydride, 1.39 g of 3-(1H-imidazol-1-yl)-2-methylpropanamine and 20 ml of ethanol was stirred at room temperature for 20 hours and concentrated. Ethyl chloroformate (10 ml) was added and the mixture was heated in an oil bath at 90°-105° C. for 2 hours, dissolved in ethanol and concentrated. Ethanol (25 ml) and 2.0 g of potassium hydroxide was added and the mixture was heated at reflux for 3 hours and concentrated. Water was added, and the pH was adjusted to 6-7 with acetic acid. The product was extracted into methylene chloride. Concentration and recrystallization from ethyl acetate resulted in the desired product, mp 206°-209° C.

reactant | 4-chloro-N-methylisatoic anhydride | 2.12 g | ClC=1C=C2C(C(=O)OC(N2C)=O)=CC1 | C9H6ClNO3
reactant | 3-(1H-imidazol-1-yl)-2-methylpropanamine | 1.39 g | N1(C=NC=C1)CC(CN)C | C7H13N3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-Chloro-3-[3-(1H-imidazol-1-yl)-2-methylpropyl]-1-methyl-2,4(1H,3H)-quinazolinedione | ClC1=CC=C2C(N(C(N(C2=C1)C)=O)CC(CN1C=NC=C1)C)=O | C16H17ClN4O2
